US06096743
A mixture of 1.30 g of ethyl 2-[2,3-dioxo-7-(1H-imidazol-1-yl)-6-nitro-1,2,3,4-tetrahydroquinoxalin-1-yl]acetate, 80 ml of THF, 20 ml of methanol and 600 mg of 10% palladium-carbon was stirred in a hydrogen gas atmosphere for 36 hours. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure to give 1.02 g (86%) of ethyl 2-[6-amino-2,3-dioxo-7-(1H-imidazol-1-yl)-l,2,3,4-tetrahydroquinoxalin-1-yl]acetate.

reactant | ethyl 2-[2,3-dioxo-7-(1H-imidazol-1-yl)-6-nitro-1,2,3,4-tetrahydroquinoxalin-1-yl]acetate | 1.30 g | O=C1N(C2=CC(=C(C=C2NC1=O)[N+](=O)[O-])N1C=NC=C1)CC(=O)OCC | C15H13N5O6
reactant | THF | 80 ml | C1CCOC1 | C4H8O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 600 mg | [C].[Pd]
solvent | methanol | 20 ml | CO | CH4O
product | ethyl 2-[6-amino-2,3-dioxo-7-(1H-imidazol-1-yl)-l,2,3,4-tetrahydroquinoxalin-1-yl]acetate | 1.02 g, 86% | NC=1C=C2NC(C(N(C2=CC1N1C=NC=C1)CC(=O)OCC)=O)=O | C15H15N5O4
